US08080542B2
A mixture of lithium hydroxide hydrate (28.4 mg, 677 μmol) and methyl 1-(4-(2-(5-benzylpyridin-2-yl)ethynyl)-3-fluorobenzyl)azetidine-3-carboxylate (77.9 mg, 188 μmol) in THF (2.7 mL) and water (0.69 mL) was stirred at 25° C. for 3 h. The reaction mixture was then partially concentrated in vacuo (to remove THF), water (1.5 mL) was added, and the resulting solution was sonicated for 1 min. The reaction solution was subsequently acidified with 1.0N HCl (670 μL), brought to pH 6 with 1M Na2HPO4/NaH2PO4 phosphate buffer (1.0 mL), and sonicated. The resulting precipitate was collected by vacuum filtration, washed with water (3.0 mL), and dried in vacuo to provide 1-(4-(2-(5-benzylpyridin-2-yl)ethynyl)-3-fluorobenzyl)azetidine-3-carboxylic acid as a light yellow solid. MS (ESI) m/z: Calculated: 400.2; Observed: 401.1 (M++1).

reactant | lithium hydroxide hydrate | 677 μmol, 28.4 mg | O.[OH-].[Li+]
reactant | methyl 1-(4-(2-(5-benzylpyridin-2-yl)ethynyl)-3-fluorobenzyl)azetidine-3-carboxylate | 188 μmol, 77.9 mg | C(C1=CC=CC=C1)C=1C=CC(=NC1)C#CC1=C(C=C(CN2CC(C2)C(=O)OC)C=C1)F | C26H23FN2O2
solvent | THF | 2.7 mL | C1CCOC1 | C4H8O
solvent | water | 0.69 mL | O | H2O
product | 1-(4-(2-(5-benzylpyridin-2-yl)ethynyl)-3-fluorobenzyl)azetidine-3-carboxylic acid | C(C1=CC=CC=C1)C=1C=CC(=NC1)C#CC1=C(C=C(CN2CC(C2)C(=O)O)C=C1)F | C25H21FN2O2
